US09029371B2
To a solution of 2-(4-bromo-phenyl)-thiomorpholine (2.80 g; 10.85 mmol) in CH2Cl2 (50 mL) was added di-tert-butyl dicarbonate (2.60 g; 11.93 mmol), at 0° C. After complete addition the mixture was allowed to warm to RT, and stirred overnight. Subsequently, the solvent was removed in vacuo and the residue purified by column chromatography (SiO2, CH2Cl2) to afford 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester (3.61 g).

reactant | 2-(4-bromo-phenyl)-thiomorpholine | 10.85 mmol, 2.80 g | BrC1=CC=C(C=C1)C1CNCCS1 | C10H12BrNS
reactant | di-tert-butyl dicarbonate | 11.93 mmol, 2.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester | 3.61 g | C(C)(C)(C)OC(=O)N1CC(SCC1)C1=CC=C(C=C1)Br | C15H20BrNO2S
